US04079181
To an ice cooled solution of diphenylmethyl α-[3-phenoxymethyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(2-chloro-1-hydroxyethylidene)acetate (36 mg) in a mixture of methanol and tetrahydrofuran (1:1) (1.1 ml) is added 1N-hydrochloric acid (0.39 ml), warmed to the room temperature, and the mixture is stirred for 1.5 hours. The reaction mixture is poured into ice water, and is extracted with methylene chloride. The extract solution is washed with 5% aqueous sodium hydrogen carbonate solution and water, dried over sodium sulfate, and evaporated. Purification of the obtained residue by thin-layer chromatography using a mixture of benzene and ethyl acetate (3:2) gives diphenylmethyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate (6 mg). m.p. 125°-126° C.

reactant | diphenylmethyl α-[3-phenoxymethyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(2-chloro-1-hydroxyethylidene)acetate | 36 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(CCl)O)=O | C28H23ClN2O5S
reactant | hydrochloric acid | 0.39 ml | Cl | ClH
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 1.1 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate | 6 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O6S
